US04822706
Isooctyl alcohol was reacted with acrylic acid to yield isooctyl acrylate.

reactant | Isooctyl alcohol | C(CCCCC(C)C)O | C8H18O
reactant | acrylic acid | C(C=C)(=O)O | C3H4O2
product | isooctyl acrylate | C(C=C)(=O)OCCCCCC(C)C | C11H20O2
